US04829081
α-bromo-α-(p-fluorophenyl) acetophenone
At room temperature, to 20 g (0.093 mol) of α-(p-fluorophenyl)-acetophenone in 200 ml of chloroform, are added a few drops of a charge of 4.8 ml of bromine (0.93 mol) (a deep orange-color results). The resultant solution is heated to initiate reaction (the solution turns yellow), and then cooled to 0° C., and the balance of the 4.8 ml of bromine is added dropwise. The reaction mixture is stirred at room temperature for about 16 hours.

reactant | α-(p-fluorophenyl)-acetophenone | 0.093 mol, 20 g | FC1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C14H11FO
reactant | bromine | 0.93 mol, 4.8 ml | BrBr | Br2
reactant | bromine | 4.8 ml | BrBr | Br2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | α-bromo-α-(p-fluorophenyl) acetophenone | BrC(C(=O)C1=CC=CC=C1)C1=CC=C(C=C1)F | C14H10BrFO
